US05952512
In 15 mL of THF was suspended 0.5 g of a racemic mixture, 1,2,4,5-tetrahydro-4-methyl-7,8-methylenedioxy-5-oxo-3-benzothiepin-2-carboxylic acid (content 99.5%; trans compound 88.1%, cis compound 11.4%). To the suspension was added 0.3 g (1 equivalent) of (1S,2S)-2-amino-1-phenyl-1,3-propanediol, which was made into a solution, followed by crystallization. The crystals were then aged for 30 minutes at room temperature (25° C.). The crystals were collected by filtration using, for example, glass filter, washed with 5 mL of THF, followed by drying overnight at room temperature under reduced pressure to afford 0.37 g of substantially pure (2R,4S)-1,2,4,5-tetrahydro-4-methyl-7,8-methylenedioxy-5-benzothiepin-2-carboxylic acid.(1S,2S)-2-amino-1-phenyl-1,3-propanediol salt as colorless crystals [HPLC area percentage; (2R,4R):(2S,4S):(2S,4R):(2R,4S)=0.6%:0.6%:8.3%:85.6%].

reactant | 1,2,4,5-tetrahydro-4-methyl-7,8-methylenedioxy-5-oxo-3-benzothiepin-2-carboxylic acid | CC1C(C2=C(CC(S1)C(=O)O)C=C1C(=C2)OCO1)=O | C13H12O5S
reactant | (1S,2S)-2-amino-1-phenyl-1,3-propanediol | 0.3 g, 1 equivalent | N[C@H]([C@@H](O)C1=CC=CC=C1)CO | C9H13NO2
reactant | THF | 15 mL | C1CCOC1 | C4H8O
product | (2R,4S)-1,2,4,5-tetrahydro-4-methyl-7,8-methylenedioxy-5-benzothiepin-2-carboxylic acid | C[C@H]1CC2=C(S[C@H](C1)C(=O)O)C=C1C(=C2)OCO1 | C13H14O4S
